US05559106
B. 1-Benzyloxy-3-chloro-7-cyano-6-trifluoromethylquinoxalin-2(1H)-one
To a solution of 7.0 g (~19.4 mmol) of 1-benzyloxy-7-cyano-6-trifluoromethylquinoxaline-2,3(1H,4H)-dione in 250 ml of dry N,N-dimethylformamide was added at 0° C. 38.5 ml of 1.93M phosgene in toluene (~74.3 mmol). Stirring was continued at 24° C. for 20 h. The evaporated reaction mixture was stirred with water to give the title compound (6.6 g; 89%).

reactant | 1-benzyloxy-7-cyano-6-trifluoromethylquinoxaline-2,3(1H,4H)-dione | ~19.4 mmol, 7.0 g | C(C1=CC=CC=C1)ON1C(C(NC2=CC(=C(C=C12)C#N)C(F)(F)F)=O)=O | C17H10F3N3O3
reactant | phosgene | 1.93M, 38.5 ml | C(=O)(Cl)Cl | CCl2O
reactant | toluene | ~74.3 mmol | C1(=CC=CC=C1)C | C7H8
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | 1-Benzyloxy-3-chloro-7-cyano-6-trifluoromethylquinoxalin-2(1H)-one | 6.6 g, 89% | C(C1=CC=CC=C1)ON1C(C(=NC2=CC(=C(C=C12)C#N)C(F)(F)F)Cl)=O | C17H9ClF3N3O2
